US06699873B1
2-(2-Naphthalen-1-yl-ethyl)-benzonitrile.
A solution of 1.26 mL (911 mg, 9.00 mmol) of diisopropylamine in 50 mL of THF (tetrahydrofuran) was cooled to −78° C. under nitrogen and 5.6 mL (9.0 mmol) of n-butyllithium, 1.6 M in hexanes, was added via syringe. The mixture was stirred at −78° C. for 1 hour and a solution of 353 mg (3.00 mmol) of α-tolunitrile in 10 mL of THF was added. The solution was stirred at −78° C. for one additional hour and a solution of 1.57 mL (9.00 mmol) of HMPA and 583 mg (3.30 mmol) of 1-chloromethylnaphthalene in 10 mL of THF was added dropwise. After stirring for one additional hour at −78° C., the reaction was quenched with water and extracted with Et2O (diethyl ether) (2×30 mL). The organic layer was washed with aqueous 1 N HCl (30 mL), water (3×30 mL), brine (30 mL) and dried (Na2SO4). The solvent was evaporated to give 735 mg of crude product which was used directly in the next step.

reactant | diisopropylamine | 9.00 mmol, 1.26 mL, 911 mg | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 9.0 mmol, 5.6 mL | C(CCC)[Li]
reactant | α-tolunitrile | 3.00 mmol, 353 mg | C1(=CC=CC=C1)CC#N | C8H7N
reactant | HMPA | 9.00 mmol, 1.57 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | 1-chloromethylnaphthalene | 3.30 mmol, 583 mg | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
solvent | THF | 50 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | O1CCCC1 | C4H8O
product | 2-(2-Naphthalen-1-yl-ethyl)-benzonitrile | 735 mg | C1(=CC=CC2=CC=CC=C12)CCC1=C(C#N)C=CC=C1 | C19H15N
